US07807687B2
Step 3: Synthesis of 6,7-dihydro-2,4-diphenylquinolin-8(5H)-one 4a
12.44 g of 5,6,7,8-tetrahydro-8-oxo-2,4-diphenyl-1-benzopyryliumtetrafluoroborate (32 mmol) is suspended in 80 ml of distilled water and a solution of 25 g of ammonium carbaminate (320 mmol) in 200 ml of distilled water is added with stirring. After stirring at room temperature for 24 h, the solution is extracted by suction via a nutsche, washed with distilled water and dried by suction. The cream-coloured powder is washed in portions with diethyl ether and dried at 50° C. in a vacuum drying cabinet to constant weight: 8.39 g of ivory-coloured product (87.5%) with a melting point of 177-178° C. (decomposition). IR (ATR): The CO valence vibration band can be seen at 1700 cm−1. 1H-NMR (500 MHz, CDCl3): δ=8.09 (d, 2H, o-H of 2-phenyl), 7.79 (s, 1H, H3), 7.56-7.33 (m, 8H, arom. H), 2.92 (t, 2H, J=5.75 Hz), 2.83 (t, 2H, J =6.56 Hz), 2.10 (p, 2H, J=5.75 Hz, J=6.56 Hz).

reactant | 5,6,7,8-tetrahydro-8-oxo-2,4-diphenyl-1-benzopyryliumtetrafluoroborate | 32 mmol, 12.44 g | F[B-](F)(F)F.O=C1CCCC=2C(=CC(=[O+]C21)C2=CC=CC=C2)C2=CC=CC=C2
reactant | ammonium | 25 g | [NH4+]
solvent | water | 80 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | 6,7-dihydro-2,4-diphenylquinolin-8(5H)-one | C1(=CC=CC=C1)C1=NC=2C(CCCC2C(=C1)C1=CC=CC=C1)=O | C21H17NO
